US08044043B2
(R)-6-(2,3-Difluorophenyl)-9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine 1-oxide.
Dess-MartinPeriodinane (1.227 g, 2.89 mmol) was added to the CH2Cl2 (8 mL) solution of (6R,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine 1-oxide (0.7662 g, 2.63 mmol) at rt. The reaction was stirred at rt for 1 hour. The reaction was directly load to a column and separated with 10% methanol in CH2Cl2 (0 to 10% gradient) (0.54 g, 42%). MS(ESI)[M+H+]=290.03.

reactant | Dess-MartinPeriodinane | 2.89 mmol, 1.227 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (6R,9R)-6-(2,3-difluorophenyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine 1-oxide | 2.63 mmol, 0.7662 g | FC1=C(C=CC=C1F)[C@H]1CC=2C(=[N+](C=CC2)[O-])[C@@H](CC1)O | C16H15F2NO2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (R)-6-(2,3-Difluorophenyl)-9-oxo-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine 1-oxide | FC1=C(C=CC=C1F)[C@H]1CC=2C(=[N+](C=CC2)[O-])C(CC1)=O | C16H13F2NO2
